US05556857
To a solution of 5-methoxy-3,4-dihydrocarbostyril (53.1 g, 0.3 mole) in 200 ml of dimethylformamide (DMF) was added portionwise 60% sodium hydride in oil (19.2 g, 0.4 mole) at room temperature, and the mixture was stirred for 30 minutes. To the thus-obtained solution of the sodium salt of 5-methoxy-3,4-dihydrocarbostyril in DMF was added 1-bromo-3-chloropropane (94 ml, 0.6 mole). The mixture was stirred at 80°-90° C. for 8 hours. The DMF was distilled off under reduced pressure, and the residue was extracted with chloroform. The extract was washed with water and dried (anhydrous magnesium sulfate), the chloroform was distilled off under reduced pressure, and the residue was recrystallized from ethanol to give 59 g of 1-(3-chloropropyl)-5-methoxy-3,4-dihydrocarbostyril as colorless needles.

reactant | 5-methoxy-3,4-dihydrocarbostyril | 0.3 mole, 53.1 g | COC1=C2CCC(NC2=CC=C1)=O | C10H11NO2
reactant | sodium hydride | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | 1-bromo-3-chloropropane | 0.6 mole, 94 ml | BrCCCCl | C3H6BrCl
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-(3-chloropropyl)-5-methoxy-3,4-dihydrocarbostyril | 59 g | ClCCCN1C(=O)CCC2=C(C=CC=C12)OC | C13H16ClNO2
